US08466163B2
2-Iodo-3,5-dimethoxy-4-(4-methoxy-benzyloxy)-pyridine (π):
To a solution of 3,5-dimethoxy-4-(4-methoxy-benzyloxy)-pyridine (120 mg, 0.436 mmol) in dry THF (3 ml) at −78° C. was added t-butyllithium (0.48 mmol, 1.7 M solution in pentane) and the resulting orange mixture was stirred at low temperature for 10 minutes. A solution of iodine (166 mg, 0.654 mmol) in dry THF (2 ml) was added drop-wise and the reaction allowed to warm to room temperature and stir for 15 minutes, then quenched with 10% Na2S2O3 (aq) and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4 and concentrated onto silica-gel under reduced pressure. The solid residue was purified by flash chromatography (silica-gel, eluted with hexanes:EtOAc, 4:1) to give the product as a tan solid (100 mg, 57%). 1H-NMR (300 MHz, CDCl3) δ 7.83 (s, 1H), 7.33 (d, J=8.6 Hz, 2H), 6.86 (d, J=8.6 Hz, 2H), 5.11 (s, 2H), 3.88 (s, 3H), 3.85 (s, 3H), 3.79 (s, 3H).

reactant | 3,5-dimethoxy-4-(4-methoxy-benzyloxy)-pyridine | 0.436 mmol, 120 mg | COC=1C=NC=C(C1OCC1=CC=C(C=C1)OC)OC | C15H17NO4
reactant | t-butyllithium | 0.48 mmol, 1.7 M | C(C)(C)(C)[Li]
reactant | iodine | 0.654 mmol, 166 mg | II | I2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-Iodo-3,5-dimethoxy-4-(4-methoxy-benzyloxy)-pyridine | 100 mg, 57% | IC1=NC=C(C(=C1OC)OCC1=CC=C(C=C1)OC)OC | C15H16INO4
